US06774130B2
To a suspension of sodium hydride (22 mg, 0.91 mmol) in anhydrous dimethylsulfoxide (4.0 ml) was added (R)-1-(5-acetoxyhexyl)-3-methyl-8-azaxanthine (225 mg, 0.728 mmol). After stirring at room temperature for 30 min, the mixture was treated with methyl iodide (524 mg, 3.64 mmol). After stirring at room temperature overnight, the reaction was quenched by addition of saturated aqueous sodium chloride solution (20 ml) and then extracted with ethyl acetate (3×15 ml). The combined extracts were washed with water (10 ml), with saturated aqueous sodium chloride solution (10 ml) and dried over magnesium sulfate. TLC showed that there were two products in this mixture. After evaporation of the solvent under reduced pressure, the crude products were purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:1) to provide (R)-1-(5-acetoxyhexyl)-3,7-dimethyl-8-azaxanthine (74 mg, 31% yield) followed by (R)-1-(5-acetoxyhexyl)-3,8-dimethyl-8-azaxanthine (66 mg, 28% yield).

reactant | sodium hydride | 0.91 mmol, 22 mg | [H-].[Na+]
reactant | (R)-1-(5-acetoxyhexyl)-3-methyl-8-azaxanthine | 0.728 mmol, 225 mg | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=NNC2C1=O)C)C | C13H19N5O4
reactant | methyl iodide | 3.64 mmol, 524 mg | CI | CH3I
solvent | dimethylsulfoxide | 4.0 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-acetoxyhexyl)-3,7-dimethyl-8-azaxanthine | 74 mg, 31% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=NN(C2C1=O)C)C)C | C14H21N5O4
